*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXE2R5ARA471MF80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXE2R5ARA471MF80G_20deg-C 1 2

C1 4 2 3.71e-04
C2 5 2 6.82e-05
C3 6 2 3.17e-05
R1 3 4 9.91e-03
R2 4 5 6.12e-02
R3 5 6 9.87e-01
L1 1 3 2.70e-09

.ENDS
